US08729061B2
(2S,4R)-1-(1-(4-chlorophenyl)cyclopropanecarbonyl)-N—((S)-1-(cyclopropylamino)-1,2-dioxohexan-3-yl)-4-(2-(trifluoromethyl)phenylsulfonyl)pyrrolidine-2-carboxamide
The title compound was prepared in analogy to Example 1, using (2S,4R)-1-[1-(4-chloro-phenyl)-cyclopropanecarbonyl]-4-(2-trifluoromethyl-benzenesulfonyl)-pyrrolidine-2-carboxylic acid and (2S,3S)-3-amino-N-cyclopropyl-2-hydroxyhexanamide in step 1. MS (m/e)=668.18 [M+H+].

reactant | (2S,4R)-1-[1-(4-chloro-phenyl)-cyclopropanecarbonyl]-4-(2-trifluoromethyl-benzenesulfonyl)-pyrrolidine-2-carboxylic acid | ClC1=CC=C(C=C1)C1(CC1)C(=O)N1[C@@H](C[C@H](C1)S(=O)(=O)C1=C(C=CC=C1)C(F)(F)F)C(=O)O | C22H19ClF3NO5S
reactant | (2S,3S)-3-amino-N-cyclopropyl-2-hydroxyhexanamide | N[C@H]([C@@H](C(=O)NC1CC1)O)CCC | C9H18N2O2
product | (2S,4R)-1-(1-(4-chlorophenyl)cyclopropanecarbonyl)-N—((S)-1-(cyclopropylamino)-1,2-dioxohexan-3-yl)-4-(2-(trifluoromethyl)phenylsulfonyl)pyrrolidine-2-carboxamide | ClC1=CC=C(C=C1)C1(CC1)C(=O)N1[C@@H](C[C@H](C1)S(=O)(=O)C1=C(C=CC=C1)C(F)(F)F)C(=O)N[C@H](C(C(=O)NC1CC1)=O)CCC | C31H33ClF3N3O6S
